datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O+:10](C(CC)C([H])[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[S][C:20]([O]C)=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)C)CCCCCC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)CCCCCC 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(C)[NH][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(C8=CC=CC=C8)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(C8=CC=CC=C8)[S]2.[H][S:10][H] 21=20;20,10=10"
"[H]N([C:20]1(OC(C([O:21]1)C)C1=CC=CC=C1)[O-:10])C1=CC=CC=C1>>[H]N([C:20](=[O:10])OC(C([O-:21])C)C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21"
"CC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21][H]>>CC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]([NH:21]C)([NH]C8=CC=CC=C8)[NH]C.[Cl-]>>[Cl-].CC[NH:10][H].C[NH+:21]=[C:20]([NH]C8=CC=CC=C8)[NH]C 21=20;20,10=10"
"[O:10]([Na])C(CCC)C([H])C([C:20](C)=[O:21])C>>[O-:21][C:20]1(C)[O+:10]([Na])C(CCC)C([H])C1C 10=20;20,21=21"
"[H][O+:10](C(CC)C([H])[O]1)[C:20]1([NH:21][H])[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])[O][C:20]([O][H])=[NH+:21][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(CC)C(C)C(CC)[O][C:20]([O]C)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C 10=20;20,21=21"
"[H][NH+:10](C(C)C(CC)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([O]CC)[O][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([O]CC)[O][H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C)[CH]([H])C(C)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([O]C7=CC=CC=C7)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10]([H])C(C)C(C)C([C:20](OC)=[O:21])O>>[O-:21][C:20]1(OC)[NH+:10]([H])C(C)C(C)C1O 10=20;20,21=21"
"[H][NH+:10](C([H])C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[O][H].[Cl-]>>[Cl-].[H][NH:10]C([H])C(CC)[O][C:20]([O][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O]C([H])C(CC)[O]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O]C([H])C(CC)[O]2.CC[NH:10][H] 21=20;20,10=10"
"[H][O+:10](C(CC)C(CC)[O]1)[C:20]1([O:21]C)[O][H].[Cl-]>>[Cl-].[H][O:10]C(CC)C(CC)[O][C:20]([O][H])=[O+:21]C 21=20;20,10=10"
"[O-:21][C:20]1([H])C(C)C([H])=C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C([H])=C([H])\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[NH]2.CC[O:10][H] 21=20;20,10=10"
"[H][O:10]C(C)C(C)C(CC)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C7=CC=CC=C7 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)OCC.C[O:10][Na]>>C[O+:10]([Na])[C:21]([O-:20])(OCCCCCC)OCC 10=21;21,20=20"
"[H]N([C:20](=[O:10])OC)[H].[O-:21]C1=CC=CC=C1>>[H]N([C:20]([O-:10])(OC)[O:21]C1=CC=CC=C1)[H] 21=20;20,10=10"
"CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)CCCCCC)[H])[O-:10])C>>CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)CCCCCC)[H])C 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])CC)[H])[H])[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)CC)[H])[H])[O-:10])[H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([O:21][H])[S]C([H])C(CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[CH:20]([NH2:10])([I:21])C1=C-C=C-C=C1>>[CH:20](=[NH2+:10])C1=C-C=C-C=C1.[I-:21] 10=20;20,21=21"
"[H][NH:10]C(C)C([H])C(C)[NH][C:20]([NH]C)=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C(C)C([H])C(C)[NH]1)[C:20]1([NH:21]CC)[NH]C 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH](C)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CCCCCCN([C:20]1(OC(C([O:21]1)CC)[H])[O-:10])C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC(C([O-:21])CC)[H])C1=CC=CC=C1 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CC)[H])CC)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C(C([O-:21])CC)[H])CC)CCCCCC 10=20;20,21=21"
"[H][S+:10](C(C)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC.[Cl-]>>[Cl-].[H][S:10]C(C)C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)[H])C)[O-:10])CCCCCC>>CN([C:20](=[O:10])OC(C([O-:21])[H])C)CCCCCC 10=20;20,21=21"
